US03989685
To a solution of benzhydryl 7β-benzyloxycarbonylamino-3β-chloro-3-methylcepham-4α-carboxylate (110 mg) in ethanol (10 ml) is added previously reduced 5% palladium charcoal (50 mg), and the mixture is shaken under hydrogen gas. After 60 minutes, the reaction mixture is filtered, and the filtrate is evaporated. The residue is treated with a mixture of ether and petroleum ether to give solid benzhydryl 7β-amino-3β-chloro-3α-methylcepham-4α-carboxylate (52 mg).

reactant | benzhydryl 7β-benzyloxycarbonylamino-3β-chloro-3-methylcepham-4α-carboxylate | 110 mg | C(C1=CC=CC=C1)OC(=O)N[C@H]1[C@@H]2N([C@H]([C@](CS2)(C)Cl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C29H27ClN2O5S
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium charcoal | 50 mg | [Pd] | Pd
product | benzhydryl 7β-amino-3β-chloro-3α-methylcepham-4α-carboxylate | 52 mg | N[C@H]1[C@@H]2N([C@H]([C@](CS2)(C)Cl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C21H21ClN2O3S
